US07301032B2
200 mg of 3-methylsulfonyl-5-cyclohexyl-1,2,4-thiadiazole and 63 mg of 2-butyn-1-ol were dissolved in 2 g of N,N-dimethylformamide, 39 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 30 minutes under ice-cooling and for 1 hour at room temperature. Then, the reaction mixture was added to saturated brine, and extracted with t-butyl methyl ether. The organic layer was concentrated under reduced pressure, and the residue obtained was subjected to silica gel column chromatography to give 79 mg of 5-cyclohexyl-3-(2-butynyloxy)-1,2,4-thiadiazole (hereinafter referred to as the present invention compound (1)).

reactant | 3-methylsulfonyl-5-cyclohexyl-1,2,4-thiadiazole | 200 mg | CS(=O)(=O)C1=NSC(=N1)C1CCCCC1 | C9H14N2O2S2
reactant | 2-butyn-1-ol | 63 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 39 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 2 g | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-cyclohexyl-3-(2-butynyloxy)-1,2,4-thiadiazole | 79 mg | C1(CCCCC1)C1=NC(=NS1)OCC#CC | C12H16N2OS
